US06969712B2
1) 4-Chloro-2-nitro-5-[4-(2-hydroxyethyl)piperazin-1-yl]aniline
To a solution of 4.14 g of 4,5-dichloro-2-nitroaniline and 2.73 g of 1-piperazine ethanol in 20 ml of cyclohexanol, 2.65 g of sodium carbonate was added, and stirred for 14 hours at 150° C. After cooling the reaction liquid to room temperature, water was added thereto, followed by extraction with chloroform. The chloroform layer was dried on anhydrous magnesium sulfate and the solvent was distilled off. The residue was separated and purified on silica gel column chromatography (chloroform/methanol=10/1) to provide 5.31 g of the title compound.

reactant | 4,5-dichloro-2-nitroaniline | 4.14 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 1-piperazine ethanol | 2.73 g | N1(CCNCC1)CCO | C6H14N2O
reactant | sodium carbonate | 2.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | cyclohexanol | 20 ml | C1(CCCCC1)O | C6H12O
product | 4-Chloro-2-nitro-5-[4-(2-hydroxyethyl)piperazin-1-yl]aniline | 5.31 g | ClC1=CC(=C(N)C=C1N1CCN(CC1)CCO)[N+](=O)[O-] | C12H17ClN4O3
